US06340759B1
(17-5) 1-(4-Ethylpiperazin-1-yl)-3-(4-formylphenyl)isoquinoline
3-[(1,3-Dioxolan-2-yl)phenyl]-1-(4-ethylpiperazin-1-yl)isoquinoline (4.50 g) was dissolved in methanol (50 ml), a 1N hydrochloric acid (50 ml) was added thereto, and then the mixture was reacted at 50° C. for 1 hr. The reaction solution was evaporated, basified with sodium carbonate, and extracted with ethyl acetate. The resulting organic layer was washed with water and brine in this order, dried and concentrated. The resulting residue was purified by silica gel column chromatography (methylene chloride/methanol system), to give 3.62 g of the title compound as a pale yellow oil.

reactant | 3-[(1,3-Dioxolan-2-yl)phenyl]-1-(4-ethylpiperazin-1-yl)isoquinoline | 4.50 g | O1C(OCC1)C1=C(C=CC=C1)C=1N=C(C2=CC=CC=C2C1)N1CCN(CC1)CC | C24H27N3O2
reactant | hydrochloric acid | 1N, 50 ml | Cl | ClH
reactant | methanol | 50 ml | CO | CH4O
product | 1-(4-Ethylpiperazin-1-yl)-3-(4-formylphenyl)isoquinoline | 3.62 g | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)C=O | C22H23N3O
